US07691882B2
3-Trimethylsilanylethynyl-pyridin-2-ylamine (Alternative Method)
To a solution of 2-amino-3-bromopyridine (5.72 g, 33.1 mmol) in N-methylpyrrolidinone (120 mL) were added trimethylsilyl acetylene (9.36 mL, 66.2 mmol), tetrakis(triphenylphosphine)palladium (0) (1.91 g, 1.66 mmol), copper (I) iodide (630 mg, 3.31 mmol) and N,N-diisopropylethylamine (11.5 mL, 66.2 mmol) at room temperature, which was stirred under nitrogen atmosphere for 6 hours at 70° C. Water was added to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (5.94 g, 94%).

reactant | 2-amino-3-bromopyridine | 33.1 mmol, 5.72 g | NC1=NC=CC=C1Br | C5H5BrN2
reactant | trimethylsilyl acetylene | 66.2 mmol, 9.36 mL | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 66.2 mmol, 11.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | N-methylpyrrolidinone | 120 mL | CN1C(CCC1)=O | C5H9NO
catalyst | tetrakis(triphenylphosphine)palladium | 1.66 mmol, 1.91 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 3.31 mmol, 630 mg | [Cu]I
product | 3-Trimethylsilanylethynyl-pyridin-2-ylamine | 5.94 g, 94% | C[Si](C)(C)C#CC=1C(=NC=CC1)N | C10H14N2Si
